US07015218B1
5-Amino-2-isobutylbenzonitrile
To tert-butyl alcohol containing 3-cyano-4-isobutylbenzoic acid (8.5 g) and triethylamine (4.2 g) was added diphenylphosphoryl azide (11.5 g) at room temperature and the mixture was stirred at a refluxing temperature for 1 h. The solvent was evaporated under reduced pressure. To the residue was added aqueous potassium carbonate solution and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. To the residue were added 6N hydrochloric acid (10 ml) and methanol (100 ml) and the mixture was stirred at a refluxing temperature for 1 h. The solvent was evaporated under reduced pressure. To the residue was added aqueous sodium hydroxide solution and the mixture was extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. n-Hexane was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of diisopropyl ether-n-hexane to give the title compound (6.0 g), melting point: 68° C.

reactant | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
reactant | 3-cyano-4-isobutylbenzoic acid | 8.5 g | C(#N)C=1C=C(C(=O)O)C=CC1CC(C)C | C12H13NO2
reactant | diphenylphosphoryl azide | 11.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
product | 5-Amino-2-isobutylbenzonitrile | 6.0 g | NC=1C=CC(=C(C#N)C1)CC(C)C | C11H14N2
